US04772630
30 g of 4-chloro-5-cyano-N-(2-diethylaminoethyl)-2-methoxybenzamide are dissolved in 100 ml of acetone and, while stirring and cooling with ice, the pH is adjusted to 5 with ethereal hydrochloric acid, the hydrochloride crystallising out. The crystals are filtered off with suction and washed twice with a small amount of acetone, the salt is dried under a high vacuum at 60° and 4-chloro-5-cyano-N-(2-diethylaminoethyl)-2-methoxybenzamide hydrochloride having a melting point of 189°-190° (decomposition) is obtained.

reactant | 4-chloro-5-cyano-N-(2-diethylaminoethyl)-2-methoxybenzamide | 30 g | ClC1=CC(=C(C(=O)NCCN(CC)CC)C=C1C#N)OC | C15H20ClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-chloro-5-cyano-N-(2-diethylaminoethyl)-2-methoxybenzamide hydrochloride | Cl.ClC1=CC(=C(C(=O)NCCN(CC)CC)C=C1C#N)OC | InChI=1S/C15H20ClN3O2.ClH/c1-4-19(5-2)7-6-18-15(20)12-8-11(10-17)13(16)9-14(12)21-3;/h8-9H,4-7H2,1-3H3,(H,18,20);1H
